US07678798B2
tert-Butyl (3S)-3-Methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazine-1-carboxylate
A solution of 1-chloro-6-(trifluoromethyl)indane (1.52 g, 6.89 mmol), tert-butyl (3S)-3-methylpiperazine-1-carboxylate (2.1 g, 10 mmol), sodium iodide (3 g, 20 mmol) and triethylamine (3 g, 30 mmol) in DMF (20 mL) was stirred at 60° C. overnight. After cooling to room temperature, water was added. The resulting solution was extracted with EtOAc twice. The combined extracts were washed with water and brine, dried over MgSO4 and concentrated. Column chromatography on silica (10%-30% EtOAc in hexane) afforded two isomers. Isomer 1: 0.52 g (brown oil). MS calculated for C20H27F3N2O2: (M+H)+ 385; found 385.2. Isomer 2: 0.41 g (brown oil). MS: (M+H)+ 385.2

reactant | 1-chloro-6-(trifluoromethyl)indane | 6.89 mmol, 1.52 g | ClC1CCC2=CC=C(C=C12)C(F)(F)F | C10H8ClF3
reactant | tert-butyl (3S)-3-methylpiperazine-1-carboxylate | 10 mmol, 2.1 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium iodide | 20 mmol, 3 g | [I-].[Na+]
reactant | triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl (3S)-3-Methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazine-1-carboxylate | C[C@H]1CN(CCN1C1CCC2=CC=C(C=C12)C(F)(F)F)C(=O)OC(C)(C)C | C20H27F3N2O2
